US07728030B2
(4-bromo-2-methoxyphenyl)(methyl)sulfane (308e)
To a solution of 4-bromo-2-methoxybenzenethiol (1.21 g, 5.52 mmol) in DMF (5 mL) was added potassium carbonate (2.29 g, 16.5 mmol) under argon. The resulting mixture was stirred for 10 min, and then iodomethane (3.44 mL, 55.2 mmol) was slowly added over 2 min. The resulting mixture was stirred at r.t. overnight. Then the reacxtion mixture was pured into water (75 ml), and extracted with ethyl acetate. The organic layer was dried and the solvent was evaporated, the residue was purified by flash chromatography on silica gel with n-heptane/ethyl acetate (7:3) to give 920 mg (72%) of the subtitle compound.

reactant | 4-bromo-2-methoxybenzenethiol | 5.52 mmol, 1.21 g | BrC1=CC(=C(C=C1)S)OC | C7H7BrOS
reactant | potassium carbonate | 16.5 mmol, 2.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 55.2 mmol, 3.44 mL | IC | CH3I
reactant | water | 75 ml | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (4-bromo-2-methoxyphenyl)(methyl)sulfane | 920 mg, 72% | BrC1=CC(=C(C=C1)SC)OC | C8H9BrOS
